US08420670B2
(3,4-Dichlorobenzyl)-[2-methyl-8-(pyridin-2-yloxy)-quinolin-4-yl]-amine
Preparation was made using a similar procedure as described in example 1, method 1.3. Starting materials were 4-chloro-2-methyl-8-(pyridin-2-yloxy)-quinoline and 3,4-dichlorobenzylamine.

reactant | 4-chloro-2-methyl-8-(pyridin-2-yloxy)-quinoline | ClC1=CC(=NC2=C(C=CC=C12)OC1=NC=CC=C1)C | C15H11ClN2O
reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | (3,4-Dichlorobenzyl)-[2-methyl-8-(pyridin-2-yloxy)-quinolin-4-yl]-amine | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OC2=NC=CC=C2)C)C=CC1Cl | C22H17Cl2N3O
